US06555577B1
(E)-(S)-Ethyl 3-{4-[3-(3,5-Dibromophenyl)-allyloxy]-phenyl}-2-ethoxy-propionate
The title compound (780 mg, 78%) was prepared from (E)-3-(3,5-dibromophenyl)-prop-2-en-1-ol (584 mg, 2.0 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (500 mg, 2.10 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(3,5-dibromophenyl)-prop-2-en-1-ol | 2.0 mmol, 584 mg | BrC=1C=C(C=C(C1)Br)/C=C/CO | C9H8Br2O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.10 mmol, 500 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(3,5-Dibromophenyl)-allyloxy]-phenyl}-2-ethoxy-propionate | 780 mg, 78% | BrC=1C=C(C=C(C1)Br)/C=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC | C22H24Br2O4
